US07238676B2
(2R,3R,4R,5R)-4-(Acetyloxy)-2-[(acetyloxy)methyl]-5-(6-{[2,2-bis(4-chlorophenyl)ethyl]amino}-2-cyano-9H-purin-9-yl)tetrahydro-3-furanyl acetate
Triethylamine (0.2 ml, 1.14 mmol) was added to a stirred solution of (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-(6-chloro-2-cyano-9H-purin-9-yl)tetrahydro-3-furanyl acetate (500 mg, 1.14 mmol) (Preparation 45) and 2,2-bis(4-chlorophenyl)ethanamine (919 mg, 1.2 mmol) (J. Am. Chem. Soc., 1983, 105(10), 3138) in acetonitrile (5 ml) at room temperature. The reaction mixture was stirred for 16 hours. The solvent was then removed under reduced pressure and the residue was dissolved in dichloromethane (20 ml). The solution was washed with water (10 ml) and saturated sodium chloride solution (10 ml), dried over anhydrous magnesium sulphate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol:(99:1 by volume) increasing in polarity to dichloromethane:methanol (98.5:1.5 by volume). The solvent was removed under reduced pressure to give the title compound (698 mg) as a foam.

reactant | Triethylamine | 1.14 mmol, 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-(6-chloro-2-cyano-9H-purin-9-yl)tetrahydro-3-furanyl acetate | 1.14 mmol, 500 mg | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C2=NC(=NC(=C2N=C1)Cl)C#N)COC(C)=O | C17H16ClN5O7
reactant | 2,2-bis(4-chlorophenyl)ethanamine | 1.2 mmol, 919 mg | ClC1=CC=C(C=C1)C(CN)C1=CC=C(C=C1)Cl | C14H13Cl2N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (2R,3R,4R,5R)-4-(Acetyloxy)-2-[(acetyloxy)methyl]-5-(6-{[2,2-bis(4-chlorophenyl)ethyl]amino}-2-cyano-9H-purin-9-yl)tetrahydro-3-furanyl acetate | 698 mg | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)C#N)COC(C)=O | C31H28Cl2N6O7
